US06774082B2
Preparation of 16-butoxycarbonyl-10,13,16-tri(p-toluenesulfonyl)-10,13,16-triazahexadecaneol Tosylate
To 5.47 g of 16-butoxycarbonyl-10, 13,16-tri(p-toluenesulfonyl)-10, 13,16-triazahexadecanol in 200 ml of CH2Cl2, 2.95 g of Et3N was added and the mixture was cooled to 0° C. To the well stirred solution was added dropwise at 0° C. 0.22 g of 4-dimethylaminopyridine and then 1.67 g of p-toluenesulfonyl chloride in 100 ml of CH2Cl2 was added. The reaction was continued overnight at room temperature. A 0.04 g amount of 4-dimethylaminopyridine and 0.33 g of p-toluenesulfonyl chloride were added at 7° C. and stirring was continued for 4 hours. The mixture was extracted with water twice. The organic layers were dried over MgSO4, filtered and evaporated under reduced pressure and eluted with CH2Cl2 and CH2Cl2/ethyl acetate (100/1 v/v). About 4.21 g of product was obtained. The preparation scheme is shown below:

reactant | 16-butoxycarbonyl-10, 13,16-tri(p-toluenesulfonyl)-10, 13,16-triazahexadecanol | 5.47 g | C(CCC)OC(=O)N(CCN(CCN(CCCCCCCCCO)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C | C39H57N3O9S3
reactant | Et3N | 2.95 g | CCN(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 1.67 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | p-toluenesulfonyl chloride | 0.33 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.22 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | 16-butoxycarbonyl-10,13,16-tri(p-toluenesulfonyl)-10,13,16-triazahexadecaneol Tosylate | 4.21 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCCCCCCCCCN(CCN(CCN(S(=O)(=O)C1=CC=C(C=C1)C)C(=O)OCCCC)S(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C | C46H63N3O11S4
